US06638956B2
In a manner similar to that employed in Example 12 an ethanol solution of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime was reacted with sodium ethoxide and ethyl vinyl sulfone to give 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde O-[2-(ethylsulfinyl)ethyl]oxime, m.p.144-148° C. Compound 27.

reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C=NO)S(=O)C | C12H9Cl2F3N4O2S
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethyl vinyl sulfone | C(=C)S(=O)(=O)CC | C4H8O2S
solvent | ethanol | C(C)O | C2H6O
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde O-[2-(ethylsulfinyl)ethyl]oxime | C(C)S(=O)CCON=CC1=NN(C(=C1S(=O)C)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C16H17Cl2F3N4O3S2
